US08030298B2
2,2-Dimethylpropionic acid 4-(3-benzyloxy-17-hydroxy-17-trifluoromethyl-estra-1,3,5(10)-trien-15-yl)-butylester
Pivaloylchloride (0.50 ml; 4.10 mmol) was added dropwise to a solution of 3-Benzyloxy-15-(4-hydroxybutyl)-17-trifluoromethyl-estra-1,3,5(10)-trien-17-ol (1.65 g; 3.28 mmol) in pyridine (15 ml) at 0° C. After stirring for 2 h, the reaction mixture was poured into ice water and stirred for another h. After extraction with DCM, the combined organic phases were dried over MgSO4. After evaporation of the solvent, the residue was purified by column chromatography (SiO2, DCM) yielding the title compound (1.85 g, 96%) as colourless oil.

reactant | Pivaloylchloride | 4.10 mmol, 0.50 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 3-Benzyloxy-15-(4-hydroxybutyl)-17-trifluoromethyl-estra-1,3,5(10)-trien-17-ol | 3.28 mmol, 1.65 g | C(C1=CC=CC=C1)OC1=CC=2CC[C@H]3[C@@H]4C(CC([C@@]4(C)CC[C@@H]3C2C=C1)(O)C(F)(F)F)CCCCO | C30H37F3O3
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 2,2-Dimethylpropionic acid 4-(3-benzyloxy-17-hydroxy-17-trifluoromethyl-estra-1,3,5(10)-trien-15-yl)-butylester | 1.85 g, 96% | C(C1=CC=CC=C1)OC1=CC=2CC[C@H]3[C@@H]4C(CC([C@@]4(C)CC[C@@H]3C2C=C1)(C(F)(F)F)O)CCCCOC(C(C)(C)C)=O | C35H45F3O4
